US04992591
(a) Preparation of 2-t-Butyldimethylsilyloxy-3,4-dihydronaphthalene (19)
Charge an oven dried, nitrogen flushed 125-mL round bottomed flask equipped with a stirring bar with β-tetralone (4.977 grams, 0.0340 moles), triethylamine (6.970 grams, 0.0689 moles), 4-dimethylamino pyridine (0.217 grams, 0.0018 moles), t-butyldimethylsilyl chloride (10.701 grams, 0.0709 moles) and 40 mL methylene chloride. Stir for 72 hours, filter, wash the filtrate with 1×5 mL saturated sodium bicarbonate solution, 1×5 mL water, dry over magnesium sulfate, concentrate using a Buchi rotavapor and distill (142°-145° C., 1 Torr) to obtain the named compound

reactant | β-tetralone | 0.0340 moles, 4.977 grams | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | triethylamine | 0.0689 moles, 6.970 grams | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 0.0709 moles, 10.701 grams | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-dimethylamino pyridine | 0.0018 moles, 0.217 grams | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-t-Butyldimethylsilyloxy-3,4-dihydronaphthalene | [Si](C)(C)(C(C)(C)C)OC1=CC2=CC=CC=C2CC1 | C16H24OSi
